US07897788B2
A-a) 3-Pyrrolidin-1-yl-methylene-3H-indole
In a round bottom flask equipped with a Dean-Starck condenser, 1H-indole-3-carbaldehyde (40 g, 0.275 mmol) and pyrrolidine (27 ml, 0.330 mmol) were suspended in toluene (480 ml) and kept heating at reflux overnight. After cooling to rt, the solid was filtered off, washed with toluene and recrystallized from THF (100 ml) affording subtitle compound (47.7 g) as a reddish solid in 87% yield.

reactant | 1H-indole-3-carbaldehyde | 0.275 mmol, 40 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | pyrrolidine | 0.330 mmol, 27 ml | N1CCCC1 | C4H9N
reactant | toluene | 480 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Pyrrolidin-1-yl-methylene-3H-indole | 47.7 g, 87% yield | N1(CCCC1)C1C(NC2=CC=CC=C12)=C | C13H16N2
